US08877975B2
(a) Preparation of 1-(4-(trifluoromethyl)phenyl)cyclohexanecarbonitrile
The title compound was synthesized from 2-(4-(trifluoromethyl)phenyl)-acetonitrile (4.11 g, 22.2 mmol) and 1,5-dibromopentane (3.324 ml, 24.4 mmol) according to General Procedure J and was obtained as a clear oil (4.98 g, 89%). 1H NMR (CDCl3) δ 1.23-1.39 (m, 1H), 1.76-1.92 (m, 7H), 2.17 (d, J=11.2 Hz, 2H), 7.63 (s, 4H). 13C NMR (CDCl13) δ 23.7, 25.0, 37.4, 44.7, 122.2, 126.0, 126.7, 130.2, 145.6,GC-MS m/z 253.

reactant | 2-(4-(trifluoromethyl)phenyl)-acetonitrile | 22.2 mmol, 4.11 g | FC(C1=CC=C(C=C1)CC#N)(F)F | C9H6F3N
reactant | 1,5-dibromopentane | 24.4 mmol, 3.324 ml | BrCCCCCBr | C5H10Br2
product | 1-(4-(trifluoromethyl)phenyl)cyclohexanecarbonitrile | FC(C1=CC=C(C=C1)C1(CCCCC1)C#N)(F)F | C14H14F3N
